Spannungsteiler, 5 V, zwei 1 kΩ Widerstände, 1 verbraucher 
V1 in 0 DC 5
R1 in out 1k
R2 out 0 1k
RL out 0 1k

.control
set wr_singlescale
set wr_vecnames
op
print v(in) v(out) i(V1)
dc V1 0 5 0.1
wrdata results/belastet_dc.txt v(in) v(out) i(V1)
quit
.endc
.end