Hochpass, 1 kQ Widerstand, 1 Kondensator 
V1 in 0 PULSE(0 5 1m 1u 1u 5m 10m)
C1 in out 1u
R1 out 0 1k
.control
set wr_singlescale
set wr_vecnames
op
print v(in) v(out) i(V1)
tran 10u 25ms
plot v(in) v(out)
wrdata results/hochpass_tran.txt v(in) v(out) i(V1)
quit
.endc
.end
