Ladezeiten
V1 in 0 PULSE(0 5 1m 1u 1u 10m 20m)
R1 in out_a 1k
C1 out_a 0 1u
R2 in out_b 3.3k
C2 out_b 0 2u   
.control
set wr_singlescale
set wr_vecnames
op
print v(in) v(out_a) v(out_b) 
tran 10u 45ms 0
plot v(in) v(out_a) v(out_b)
wrdata results/ladezeiten_tran.txt v(in) v(out_a) v(out_b) 
quit
.endc
.end